US04727192
Preparation of 1-(2-amino-3,5-dinitrophenyl)-2-propanol
0.39 Mole (88 g) of 2,3-dihydro-5,7-dinitro-2-methylbenzofuran, prepared according to J.A.C.S. 80, p. 4711-4714 (1958), is suspended in 1.1 l of 20% strength ammonia solution and 600 ml of Methyl Cellosolve. After 18 hours' heating at 70° C., the reaction mixture is cooled. The precipitate formed is drained and, after being made into a paste in water until neutral and then dried under vacuum, is recrystallized from 170 ml of dioxane. After being dried under vacuum, 0.30 mole (72 g) of the expected product is obtained; it melts at 177° C.

reactant | 2,3-dihydro-5,7-dinitro-2-methylbenzofuran | 0.39 Mole, 88 g | [N+](=O)([O-])C=1C=C(C2=C(CC(O2)C)C1)[N+](=O)[O-] | C9H8N2O5
reactant | ammonia | N | H3N
reactant | Methyl Cellosolve | 600 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 1-(2-amino-3,5-dinitrophenyl)-2-propanol | 0.30 mole, 72 g | NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CC(C)O | C9H11N3O5
